simulator lang=spectre
global 0

ahdl_include "./dut/first_order_sigma_delta_modulator.va"

Vin (vin 0) vsource type=pwl wave=[0 0.25 20n 0.25 20.02n 0.75 48n 0.75]
Vclk (vclk 0) vsource type=pulse val0=0 val1=0.9 delay=0.25n period=1n width=0.35n rise=20p fall=20p
XDUT (vin vclk bitout) first_order_sigma_delta_modulator

tran tran stop=48n maxstep=20p
save vin vclk bitout
